US08044052B2
Phenyl picolinoylcarbamate
Picolinamide (0.500 g, 16 mmol) was dissolved in THF (25 mL) and cooled to −10° C. To the solution, lithium diisopropyl amide (5.1 mL, 2.0 M in heptane/THF/ethyl benzene, 10 mmol) was added dropwise. The resulting mixture was stirred at −10° C. for 15 minutes then treated with phenyl chloroformate (1.69 mL, 12.3 mmol) in THF (5 mL). After 20 minutes the reaction was warmed to room temperature and stirred for 3 hours at which time the reaction was quenched with saturated aqueous ammonium chloride. The mixture was extracted with EtOAc and the combined organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (20-50% EtOAc in heptane) to provide the desired product (0.504 g). 1H NMR (400 MHz, CDCl3) δ ppm 7.18-7.26 (m, 3H) 7.34-7.41 (m, 2H) 7.54 (ddd, J=7.63, 4.78, 1.23 Hz, 1H) 7.92 (td, J=7.74, 1.70 Hz, 1H) 8.28 (dt, J=7.82, 1.09 Hz, 1H) 8.62 (ddd, J=4.77, 1.67, 0.93 Hz, 1H) 10.47 (s, 1H).

reactant | Picolinamide | 16 mmol, 0.500 g | N1=C(C=CC=C1)C(=O)N | C6H6N2O
reactant | lithium diisopropyl amide | 10 mmol, 2.0 M, 5.1 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenyl chloroformate | 12.3 mmol, 1.69 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Phenyl picolinoylcarbamate | 0.504 g | N1=C(C=CC=C1)C(=O)NC(OC1=CC=CC=C1)=O | C13H10N2O3
